US05864039
1H-NMR (CDCl3,ppm) δ: 1.20-1.88(11 H,m), 2.20(3 H,s), 2.63(2 H,t,J=6.8 Hz), 2.60-2.32(4 H,m), 3.78(2 H,s), 7.25-7.36(5 H,m) (3) A suspension of N-benzyl-N-methyl-5-(4-aminomethylpiperidin-1-yl)-pentylamine (3.52 g), 4-amino-5-chloro-2-methoxybenzoic acid (2.34 g), dicyclohexylcarbodiimide (2.39 g), 1-hydroxybenzotriazole (1.57 g) and triethylamine (2.35 g) in N,N-dimethylformamide (40 ml) was stirred at room temperature for 12 hr. The solvent was evaporated, and water was added to the residue, which was followed by extraction with chloroform. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 0.86 g of 4-amino-5-chloro-2-methoxy-N-((1-(5-(N-benzyl-N-methylamino)pentyl)piperidin-4-yl)methyl)-benzamide.

reactant | N-benzyl-N-methyl-5-(4-aminomethylpiperidin-1-yl)-pentylamine | 3.52 g | C(C1=CC=CC=C1)N(C)CCCCCN1CCC(CC1)CN | C19H33N3
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 2.34 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | dicyclohexylcarbodiimide | 2.39 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 1.57 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.35 g | C(C)N(CC)CC | C6H15N
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-(N-benzyl-N-methylamino)pentyl)piperidin-4-yl)methyl)-benzamide | 0.86 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN(C)CC2=CC=CC=C2)C=C1Cl)OC | C27H39ClN4O2
